US05478898
A solution of bis(cyclopentadienyl)chromium in toluene was prepared, which solution was then added to a predetermined amount of silica (Grace· 532 product), dehydrated under an inert atmosphere at a temperature of 815° C. for 16 h, so that the final chromium content is 1% by weight. The toluene was then removed under reduced pressure. The bis(cyclopentadienyl)chromium was then sublimed under reduced pressure onto the silica support for 5 hours. Return to atmospheric pressure was carried out under dry nitrogen and the catalyst obtained was stored with oxygen and water excluded.

reactant | chromium | [Cr] | Cr
reactant | oxygen | O=O | O2
reactant | water | O | H2O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | bis(cyclopentadienyl)chromium | C1(C=CC=C1)[Cr]C1C=CC=C1 | InChI=1S/2C5H5.Cr/c2*1-2-4-5-3-1;/h2*1-5H;
